US04547519
Preparation of tetrahydro-3,5-dioxo-1H-pyrrolizine-7a(5H)-propanoic acid N-4-pyridinyl amide
A suspension of 21.1 g of tetrahydro-3,5-dioxo-1H-pyrrolizine-7a(5H)-propanoic acid, 21.7 g of dicyclohexylcarbodiimide, and 100 mg of 4-dimethylaminopyridine (catalyst) in 100 ml of methylene chloride are treated with 9.4 g of 4-aminopyridine. The mixture is stirred for 16 hours and the by-product, N,N1 -dicyclohexylurea, is removed by filtration. The product is purified by chromatography over silica gel using 40% 2-propanol-methylene chloride for elution. After recrystallization from water, the product is isolated as a white solid with a melting point of 285°-287° C.

reactant | tetrahydro-3,5-dioxo-1H-pyrrolizine-7a(5H)-propanoic acid | 21.1 g | O=C1CCC2(CCC(N12)=O)CCC(=O)O | C10H13NO4
reactant | dicyclohexylcarbodiimide | 21.7 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | 4-aminopyridine | 9.4 g | NC1=CC=NC=C1 | C5H6N2
catalyst | 4-dimethylaminopyridine | 100 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | methylene chloride | 100 ml | C(Cl)Cl | CH2Cl2
product | tetrahydro-3,5-dioxo-1H-pyrrolizine-7a(5H)-propanoic acid N-4-pyridinyl amide | N1=CC=C(C=C1)NC(CCC12CCC(N2C(CC1)=O)=O)=O | C15H17N3O3
